rl-lowpass: RL low-pass, output across series resistor
* Ideal linear signal model; opamps have no supply or output limits.
V1 vin 0 DC 1 AC 1
L1 vin out 0.01
R1 out 0 100
.ac lin 1 10000 10000
.control
set filetype=ascii
set numdgt=15
run
write result.raw all
quit
.endc
.end
